US04379161
(1) 1-cyclopropylmethyl-2-carbethoxy methyl-5-pyrrolidone
78 g of cyclopropylmethylamine (1.1 mole) and 220 g of 3-hexenedioic acid diethyl ester are introduced into a liter autoclave. The mixture is heated to 165° C. and then kept at that temperature for 8 hours. After cooling, the product is distilled under vacuum, first eliminating the alcohol, then obtaining 155 g of a compound which distils at 157°-160° C. under 3 mm of Hg.

reactant | cyclopropylmethylamine | 1.1 mole, 78 g | C1(CC1)CN | C4H9N
reactant | 3-hexenedioic acid diethyl ester | 220 g | C(C)OC(CC=CCC(=O)OCC)=O | C10H16O4
product | 1-cyclopropylmethyl-2-carbethoxy methyl-5-pyrrolidone | 155 g | C1(CC1)CN1C(CCC1=O)CC(=O)OCC | C12H19NO3
